US04178387
A suspension of 125.6 g. of 2,6-dimethylformanilide in 1100 ml. of dry tetrahydrofuran is cooled to 0° C. in ice-methanol. To this with constant stirring is added dropwise over a period of 3 hours 1125 ml. of 0.96 M BH3 in tetrahydrofuran. This is then allowed to warm gradually to room temperature and then heated slowly to reflux. Refluxing is maintained for 6 hours and then stirred at room temperature another 15 hours. The reaction mixture is then cooled in ice and acidified with 425 ml. of 6 N HCl. A white solid forms. The mixture is evaporated in vacuo and the water-solid slurry dissolved into 2 l. of water. The solution is made strongly alkaline (with cooling) with 50% NaOH and then extracted twice with ether (2 l.) The ether is then washed three times with 100 ml. portions of water and twice with 100 ml. portions of saturation sodium chloride solution. The ether is then dried over sodium sulfate, filtered, acidified with ethereal HCl while cooling. The white solid which forms is filtered, washed with ether and sucked dry. This is recrystallized from isopropanol methanol to give N,2,6-trimethylaniline hydrochloride (m.p. 255-257 dec.)

reactant | 2,6-dimethylformanilide | CC1=C(C(=CC=C1)C)NC=O | C9H11NO
reactant | HCl | 6 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N,2,6-trimethylaniline hydrochloride | Cl.CNC1=C(C=CC=C1C)C | InChI=1S/C9H13N.ClH/c1-7-5-4-6-8(2)9(7)10-3;/h4-6,10H,1-3H3;1H
